US04053596
C. 1-(3-Piperidinopropyl)-2-indanol
1-[3-(3-Indenyl)propyl]piperidine (48.2 g, 0.2 M) is dissolved in 400 ml tetrahydrofuran and stirred in a nitrogen atmosphere while 400 ml 1M borane in tetrahydrofuran is added dropwise over a period of 1 hour. The mixture is left stirring overnight at room temperature. Most of the solvent is then removed in vacuo. The viscous residue is dissolved in 500 ml 95% ethanol, treated with 20 g NaOH and then 65 ml of 30% H2O2 is added dropwise over a period of 30 minutes. The mixture is stirred at room temperature for 2 hours and then heated under reflux for 21/2 hours. The mixture is then taken to near dryness in vacuo. The residue is then extracted three times with benzene. The benzene extracts are dried, filtered and the solvent is removed in vacuo leaving 57 g of oil. The VPC of this material indicates ~ 97% purity.

reactant | 1-[3-(3-Indenyl)propyl]piperidine | 0.2 M, 48.2 g | C1C=C(C2=CC=CC=C12)CCCN1CCCCC1 | C17H23N
reactant | borane | 1M, 400 ml | B | BH3
reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 1-(3-Piperidinopropyl)-2-indanol | 57 g | N1(CCCCC1)CCCC1C(CC2=CC=CC=C12)O | C17H25NO
